US09102688B2
5-Chloro-4-fluoro-2-nitro-benzenesulfonyl chloride (Intermediate 218)
In a similar fashion using route 3a general procedure 10, SOCl2 (2.8 ml, 28.8 mmol) in water (15 ml), CuCl (26 mg, 0.26 mmol), 5-chloro-4-fluoro-2-nitroaniline (1 g, 5.2 mmol), NaNO2 (522 mg, 7.5 mmol) and conc. HCl (10 ml) gave the title compound (1.5 g) which was used in the next step without further purification. The structure was confirmed by 1H NMR.

reactant | SOCl2 | 28.8 mmol, 2.8 ml | O=S(Cl)Cl | Cl2OS
reactant | 5-chloro-4-fluoro-2-nitroaniline | 5.2 mmol, 1 g | ClC=1C(=CC(=C(N)C1)[N+](=O)[O-])F | C6H4ClFN2O2
reactant | NaNO2 | 7.5 mmol, 522 mg | N(=O)[O-].[Na+]
reactant | HCl | 10 ml | Cl | ClH
solvent | water | 15 ml | O | H2O
catalyst | CuCl | 0.26 mmol, 26 mg | Cl[Cu]
product | 5-Chloro-4-fluoro-2-nitro-benzenesulfonyl chloride | 1.5 g | ClC=1C(=CC(=C(C1)S(=O)(=O)Cl)[N+](=O)[O-])F | C6H2Cl2FNO4S
